US06906084B2
(ii) 1-[(4-Chloro-phenylcarbamoyl)-methyl]-1H-indole-2-carboxylic acid.
To a solution of 1.45 g 1-[(4-chloro-phenylcarbamoyl)-methyl]-1H-indole-2-carboxylic acid ethyl ester in 100 ml tetrahydrofuran 30 ml water and 0.59 g potassium hydroxide were added. After stirring for 2 hours at room temperature the reaction mixture was acidified with 6 N hydrochloric acid. The precipitate was collected by filtration and was washed with 20 ml water. The product was obtained as a white solid which was dried under reduced pressure.

reactant | 1-[(4-chloro-phenylcarbamoyl)-methyl]-1H-indole-2-carboxylic acid ethyl ester | 1.45 g | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(NC1=CC=C(C=C1)Cl)=O | C19H17ClN2O3
reactant | potassium hydroxide | 0.59 g | [OH-].[K+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[(4-Chloro-phenylcarbamoyl)-methyl]-1H-indole-2-carboxylic acid | ClC1=CC=C(C=C1)NC(=O)CN1C(=CC2=CC=CC=C12)C(=O)O | C17H13ClN2O3
